US07521447B2
Step B: 5-Fluoro-2-[1-(2-oxoethyl)-1H-indazol-5-yloxy]-benzonitrile:
To a solution of 2-[1-(2,2-dimethoxyethyl)-1H-indazol-5-yloxy]-5-fluorobenzonitrile (1.42 g, 4.16 mmol) in dichloromethane (62 mL) was added iodotrimethylsilane (3.33 g, 16.64 mmol) portion-wise over 3 hours. The mixture was stirred at room temperature for 2 hours. Aqueous NaHCO3 (60 mL) was added to the mixture and it was extracted with ethyl acetate (2×50 mL). The combined extracts were washed with Na2S204, brine, dried over MgSO4, and concentrated under reduced pressure. The crude product was used in the next reaction without further purification.

reactant | 2-[1-(2,2-dimethoxyethyl)-1H-indazol-5-yloxy]-5-fluorobenzonitrile | 4.16 mmol, 1.42 g | COC(CN1N=CC2=CC(=CC=C12)OC1=C(C#N)C=C(C=C1)F)OC | C18H16FN3O3
reactant | iodotrimethylsilane | 16.64 mmol, 3.33 g | I[Si](C)(C)C | C3H9ISi
reactant | NaHCO3 | 60 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 62 mL | ClCCl | CH2Cl2
product | 5-Fluoro-2-[1-(2-oxoethyl)-1H-indazol-5-yloxy]-benzonitrile | FC=1C=CC(=C(C#N)C1)OC=1C=C2C=NN(C2=CC1)CC=O | C16H10FN3O2
